US06352993B1
Step 1:6-methyl-4-hydroxy-2-(4-fluorophenylamino)pyrimidine
A mixture solution of ethyl acetoacetate(3.8 ml, 30.3 mmol), 4-fluorophenylguanidine carbonate(5 g, 26.3 mmol), and dimethylformamide(5 ml) was refluxed for 2 hours and cooled to a room temperature. Ethyl ether was added to the reaction mixture and the resulting solid was filtered, washed with ethyl ether, and concentrated under a reduced pressure to give 1.74 g of the titled compound. (Yield 30%)

reactant | ethyl acetoacetate | 30.3 mmol, 3.8 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 4-fluorophenylguanidine carbonate | 26.3 mmol, 5 g | C(O)(O)=O.FC1=CC=C(C=C1)NC(=N)N
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | Ethyl ether | C(C)OCC | C4H10O
product | 6-methyl-4-hydroxy-2-(4-fluorophenylamino)pyrimidine | 1.74 g, Yield 30% | CC1=CC(=NC(=N1)NC1=CC=C(C=C1)F)O | C11H10FN3O
